US04886821
Picolinic acid (10.0 g, 81 mmol) was added to a solution of 1,1'-carbonyldiimidazole (13.13 g, 81 mmol) in dimethylformamide (80 mL) and the reaction mixture was stirred for 1 hour before introduction of 2,4-difluoroaniline (9.06 mL, 89 mmol). After 24 hours, the reaction mixture was poured into saturated sodium bicarbonate solution, extracted into ether, dried, concentrated, and recrystallized using a mixture of ether and petroleum ether to yield N-(2,4-difluorophenyl)-2-pyridine-carboxamide as a white solid (14.37 g, 76.0%) m.p. 90.5°-95° C.

reactant | Picolinic acid | 81 mmol, 10.0 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1,1'-carbonyldiimidazole | 81 mmol, 13.13 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,4-difluoroaniline | 89 mmol, 9.06 mL | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | N-(2,4-difluorophenyl)-2-pyridine-carboxamide | 14.37 g, 76.0% | FC1=C(C=CC(=C1)F)NC(=O)C1=NC=CC=C1 | C12H8F2N2O
